US05206363
Analogously to Example 1, the racemic mixture of 5-[1-methyl-1,2,3,4-tetrahydroquinol-6-yl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2 H-1,3,4-thiadiazin-2-one (m.p. 177°) is reacted with (+)-camphanic acid chloride to give 3- [(+)-camphanoyl]-5-(1-methyl-1,2,3, 4-tetrahydroquinol-6-yl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one as a mixture of diastereoisomers.

reactant | 5-[1-methyl-1,2,3,4-tetrahydroquinol-6-yl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2 H-1,3,4-thiadiazin-2-one | S1C(N=NC=C1)=O.CN1CCCC2=CC(=CC=C12)C1=NNCSC1C
reactant | (+)-camphanic acid chloride | C12(C(CC(CC1)C2(C)C)C(=O)Cl)C | C11H17ClO
product | 3- [(+)-camphanoyl]-5-(1-methyl-1,2,3, 4-tetrahydroquinol-6-yl)-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | C12(C(CC(CC1)C2(C)C)C(=O)N2C(SC(C(=N2)C=2C=C1CCCN(C1=CC2)C)C)=O)C | C25H33N3O2S
